US04782180
Sulfuric acid (99%, 45 ml) was added cautiously to water (45 ml) and the resulting solution mixed with glacial acetic acid (450 ml). To this solution was added dimethyl 3,4,5,6-tetrafluorophthalate (90.0 g) and the resulting mixture heated at reflux for six hours. The solution was concentrated under reduced pressure to remove acetic acid and water. Fresh acetic acid (450 ml) and water (75 ml) were added to the residue and refluxing continued overnight (16 hours). The solution was concentrated again under reduced pressure to a semisolid. Hydrochloric acid (37%, 150 ml) was added and the mixture warmed until all the solids dissolved. The solution was concentrated under reduced pressure to 125 ml. Cooling gave crystals which were collected and washed with 37% hydrochloric acid. Recrystallization from 130 ml 24% hydrochloric acid followed by drying under vacuum at room temperature gave tetrafluorophthalic acid (59 g, 73%); mp 159°-161° C.

reactant | Sulfuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 45 ml | O | H2O
reactant | dimethyl 3,4,5,6-tetrafluorophthalate | 90.0 g | FC1=C(C(C(=O)OC)=C(C(=C1F)F)F)C(=O)OC | C10H6F4O4
solvent | acetic acid | 450 ml | C(C)(=O)O | C2H4O2
product | tetrafluorophthalic acid | 59 g, 73% | FC=1C(=C(C(=C(C1C(=O)O)C(=O)O)F)F)F | C8H2F4O4
